US07022705B2
(5RS)-3-(3-Fluoro-4-piperazin-1-ylphenyl)-5-(1,2,3-triazol-1-yl-methyl)-4,5-dihydroisoxazole
A mixture of (5RS)-3-(3,4-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole (528 mg, 2 mM), potassium carbonate (414 mg, 3 mM), and piperazine (7.5 g) was heated under nitrogen at 130° for 4 hours. After cooling, the mixture was partitioned between water (150 ml) and ethyl acetate (150 ml). The organic extract was washed with sodium bicarbonate (75 ml), and brine (75 ml). After drying (magnesium sulfate) and evaporation, the desired product (614 mg) was obtained sufficiently pure without chromatography. MS (ESP): 331 (MH+) for C16H19FN6O NMR (DMSO-d6) δ: 2.81 (t, 4H); 2.97 (t, 4H); 3.20 (dd overlapped by H2O, 1H); 3.52 (dd, 1H); 4.58 (dd, 1H); 4.64 (dd, 1H); 5.08 (m, 1H); 7.02 (t, 1H); 7.30 (overlapping m, 2H); 7.70 (d, 1H); 8.11 (d, 1H); NH missing—exchanged.

reactant | (5RS)-3-(3,4-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-4,5-dihydroisoxazole | 2 mM, 528 mg | FC=1C=C(C=CC1F)C1=NOC(C1)CN1N=NC=C1 | C12H10F2N4O
reactant | potassium carbonate | 3 mM, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine | 7.5 g | N1CCNCC1 | C4H10N2
product | (5RS)-3-(3-Fluoro-4-piperazin-1-ylphenyl)-5-(1,2,3-triazol-1-yl-methyl)-4,5-dihydroisoxazole | 614 mg | FC=1C=C(C=CC1N1CCNCC1)C1=NOC(C1)CN1N=NC=C1 | C16H19FN6O
